US08791146B2
2-Chloro-6-ethoxy-4-[4-(2-hydroxyethoxy)phenyl]pyridine-3,5-dicarbonitrile
14.8 g (45.631 mmol) of 2-amino-6-ethoxy-4-[4-(2-hydroxyethoxy)phenyl]pyridine-3,5-dicarbonitrile are initially charged in 830 ml of acetonitrile, 32.07 g (273.785 mmol) of isoamyl nitrite and 36.81 g (273.785 mmol) of copper(II) chloride are added and the mixture is stirred at 60° C. for 3 hours. 800 ml of 1N hydrochloric acid are added, and the reaction mixture is extracted with ethyl acetate. The organic phase is washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over sodium sulphate and concentrated. The residue is triturated with ethanol, and the solid is filtered off, washed with ethanol and dried under high vacuum. As the mother liquor still contains product, it is adsorbed onto 35 g of silica gel and purified on a silica gel column (mobile phase: cyclohexane/ethyl acetate 2:1→1:1). This gives a total of 11.9 g (72% of theory) of the target compound.

reactant | 2-amino-6-ethoxy-4-[4-(2-hydroxyethoxy)phenyl]pyridine-3,5-dicarbonitrile | 45.631 mmol, 14.8 g | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)OCC | C17H16N4O3
reactant | isoamyl nitrite | 273.785 mmol, 32.07 g | N(=O)OCCC(C)C | C5H11NO2
reactant | hydrochloric acid | 1N, 800 ml | Cl | ClH
solvent | acetonitrile | 830 ml | C(C)#N | C2H3N
catalyst | copper(II) chloride | 273.785 mmol, 36.81 g | [Cu](Cl)Cl
product | 2-Chloro-6-ethoxy-4-[4-(2-hydroxyethoxy)phenyl]pyridine-3,5-dicarbonitrile | ClC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)OCC | C17H14ClN3O3
